US06891066B2
The product of Example 6, 2-(4-Allyl-2-fluoroanilino)-3,4-difluoro-N-(2-hydroxyethoxy)benzamide was dissolved in absolute EtOH and hydrogenated in the presence of 5% Pd/C by the procedure of Example 1, Step D. Purification of the resulting oil was carried out by filtration through a plug of silica gel (50% EtOAc/PE as eluant) to give 3,4-difluoro-2-(2-fluoro-4-propylanilino)-N-(2-hydroxyethoxy)benzamide as a white solid (77%); m.p. (EtOAc/hexane) 144-146° C. 1H NMR [400 MHz, (CD3)2SO] δ 11.85 (br s, 1 H), 8.76 (br s, 1 H), 7.43-7.33 (m, 1 H), 7.14-7.06 (m, 1 H), 7.04 (dd, J=12.5, 1.5 Hz, 1 H), 6.88 (dd, J=8.3, 1.7 Hz, 1 H), 6.83 (ddd, J=8.6, 8.6, 4.2 Hz, 1 H), 4.70 (br s, 1 H), 3.86 (t, J=4.9 Hz, 2 H), 3.57 (t, J=4.9 Hz, 2 H), 2.49 (t, J=7.7 Hz, 2 H), 1.56 (sextet, J=7.4 Hz, 2 H), 0.87 (t, J=7.3 Hz, 3 H). Anal. calcd. for C18H19F3N2O3:C, 58.7; H, 5.2; N, 7.6. Found C, 58.8; H, 5.2; N, 7.7.

reactant | 2-(4-Allyl-2-fluoroanilino)-3,4-difluoro-N-(2-hydroxyethoxy)benzamide | C(C=C)C1=CC(=C(NC2=C(C(=O)NOCCO)C=CC(=C2F)F)C=C1)F | C18H17F3N2O3
solvent | EtOH | CCO | C2H6O
solvent | Pd/C | [Pd] | Pd
product | 3,4-difluoro-2-(2-fluoro-4-propylanilino)-N-(2-hydroxyethoxy)benzamide | 77% | FC=1C(=C(C(=O)NOCCO)C=CC1F)NC1=C(C=C(C=C1)CCC)F | C18H19F3N2O3
